US04035346
Triphenyl-n-octadecylphosphonium bromide is prepared by refluxing n-octadecyl bromide (1000 grams) and triphenyl phosphine (787 grams) in about 1400 ml. of toluene for 16 hours at about 110° C. The product is precipitated from the cooled solution by the addition of about 500 ml. of ethyl acetate and the crystals filtered from solution. These crystals, 1550 grams, are added to 890 grams of sodium 3,5-dicarbomethoxybenzenesulfonate in 3000 ml. of water which is heated to 80°-85° C. and stirred for one hour. The oil layer is washed twice with about 2000 ml. of room-temperature water, then dried at 50° C. under nitrogen for 16 hours at a pressure less than 100 torr. The product, triphenyl-n-octadecylphosphonium 3,5-dicarbomethoxybenzenesulfonate, solidifies on cooling.

reactant | n-octadecyl bromide | 1000 grams | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | triphenyl phosphine | 787 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Triphenyl-n-octadecylphosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](CCCCCCCCCCCCCCCCCC)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C36H52P.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-26-33-37(34-27-20-17-21-28-34,35-29-22-18-23-30-35)36-31-24-19-25-32-36;/h17-25,27-32H,2-16,26,33H2,1H3;1H/q+1;/p-1
